US06444685B1
1-(4-{4-[2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Isopropyl Ester
The title compound was prepared from N-[5-((1R)-2-Amino-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide and Reference Example 14, 1-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid isopropyl ester, according to the procedure of Example 1 as an off-white solid; mp 52-58° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.10-1.20 (m, 6). 1.20-1.35 (m, 2H), 1.50-2.00 (m, 6H), 2.91 (s, 3H), 2.50-3.00 (m, 7H) 3.70-3.90 (m, 2H), 4.00 (m, 1H), 4.40-4.50 (m, 1H), 4.85-5.00 (m, 1H), 6.77 (d, 1H), 6.98 (d, 1H), 7.03 (d, 2H), 7.18 (d, 1H), 7.57 (d, 2H); MS (ES) m/z: 625.1 (MH+); HRMS Calcd. for C28H40N4O8S2 (MH+): 625.2360. Found: 625.2366.

reactant | N-[5-((1R)-2-Amino-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | 1-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid isopropyl ester | C(C)(C)OC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C19H26N2O5S
product | 1-(4-{4-[2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Isopropyl Ester | C(C)(C)OC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NCC(C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C28H40N4O8S2
